2178-09-13 08:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2178-9-12**] 10:26 PM
 PICC LINE - START [**2178-9-12**] 10:50 PM
 MULTI LUMEN - START [**2178-9-12**] 10:54 PM
 ARTERIAL LINE - START [**2178-9-12**] 10:55 PM
 BRONCHOSCOPY - At [**2178-9-12**] 11:02 PM
 BLOOD CULTURED - At [**2178-9-13**] 05:33 AM
 SPUTUM CULTURE - At [**2178-9-13**] 05:33 AM
 NASAL SWAB - At [**2178-9-13**] 05:33 AM
   Admit o/n. Bronchoscopy performed to reposition trach, with improvement
   in ventilation and ABG following. Vitamin K 2mg NG for INR correction.
   Off pressors since [**9-13**] midnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2178-9-13**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-13**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 77 (63 - 86) bpm
   BP: 102/58(74) {99/57(72) - 131/69(91)} mmHg
   RR: 20 (20 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     51 mL
                                                                    187 mL
   PO:
             TF:
             7 mL
   IVF:
                                                                     51 mL
                                                                      0 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    605 mL
   Urine:
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -729 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.29/62/99.[**Numeric Identifier 8**]/27/1
   Ve: 16 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Gen- Alert to voice, appears to be answering questions, tracking with
   eyes, NAD.
   HEENT- NCAT, trach in place.  No JVD.
   Pulm- B/L coarse ant BS, b/l symmetric chest wall expansion
   CV- S1/S2 w/o MGR
   Abd- obese, soft, NTND. G tube in place. +BS
   Ext- 2+ peripheral edema b/l LE
   Labs / Radiology
   112 K/uL
   7.9 g/dL
   80 mg/dL
   2.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   45 mg/dL
   105 mEq/L
   142 mEq/L
   27.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2178-9-12**]  09:58 PM
                             [**2178-9-12**]  10:20 PM
                             [**2178-9-13**]  12:10 AM
                             [**2178-9-13**]  03:02 AM
                             [**2178-9-13**]  04:40 AM
   WBC
   12.8
   9.3
   Hct
   30.0
   27.2
   Plt
   136
   112
   Cr
   2.6
   2.5
   TropT
   0.11
   0.11
   TCO2
   33
   30
   31
   Glucose
   108
   80
   Other labs: PT / PTT / INR:64.3/55.4/7.4, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:14/28, Alk Phos / T Bili:74/0.2, Amylase
   / Lipase:38/19, Differential-Neuts:84.9 %, Lymph:9.0 %, Mono:4.3 %,
   Eos:1.6 %, Lactic Acid:0.5 mmol/L, Albumin:2.5 g/dL, LDH:329 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR [**9-12**]: improved lung space filling dz compared to [**9-10**].
   Microbiology: Bcx, Ucx pending
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   This is a 51 y/o male with a history of severe mixed obstructive and
   restrictive disease recently admitted with hypoxic and hypercarbic
   respiratory failure, VAP and ARF now readmitted with hypercarbic
   respiratory failure, hypotension, and elevated INR.
   # Hypercarbic Respiratory Failure: generelly due to obstructive and
   restrictive lung disease and obesity hypoventilatio.  Acute
   decompensation improved significantly after repositioning of trach with
   bronchoscopy.  ABG and patient comfort markedly improved.
   - repeat ABG after trach respositioning, goal PCO2 70s-80s
   - continue home albuterol, ipratropium, beclomethasone
   - continue tobra, vanco for now as below
   - Call IP for new custom made trach to avoid future movement of trach.
   # Hypotension: hypotensive on presentation, unclear etiology. Likely
   hypovolemia vs infection.  Known pseudomonas PNA.  Currently
   normotensive, off pressors since [**9-13**] midnight.
   - hold pressors unless MAPs <55.
   - continue fluid boluses prn
   - continue empiric vancomycin dosed by level, tobra dosed by level,
   hold off on colistin.
   - serial HCTs
   - f/u blood cx, sputum cx, urine cx
   # Resistant Pulmonary Pseudomonas VAP: The patient recently grew
   resistant pseudomonas on his sputum which persisted on repeat cx [**2178-9-9**]
   sensitive to tobramycin and gent only. Colistin sent to outside lab but
   sensis not available in our system. He is currently on tobramycin day
   [**10-19**]. Was planning on completion of course [**2178-9-18**].
   - check tobra level, received 120mg IV dose in ED
   - not giving colistin now.  If febrile again, c/s ID and discuss adding
   colistin.
   # Elevated INR: INR 7 on admission from 2.7 the day before. Unclear
   etiology of rapid elevation, has been on7.5mg daily dosing which was
   relatively stable dose last several days. [**Month (only) 11**] be elevated if drawn off
   line or with recent abx, nutritional deficiency. HCT and PLT stable
   with no e/o active bleed.  Rechecks of INR consistently high.  Given
   Vit K 2mg NG and INR came down 1 point.
   - Vitamin K 5mg ng this AM
   - repeat INR in PM
   - if remains elevated [**6-13**] with no active bleeding will hold coumadin,
   and give PO vitamin K given has had recent bleed
   - if develops active bleed, IV vitamin K
   -restart coumadin once INR <3.
   # Constipation - Continue home bowel regimen
   # Funguria: Completed fluconazole x 14 days, last day [**2178-9-11**].
   - repeat UA and cx
   # Thrombocytopenia: Improved from nadir of 90s. Unclear etiology last
   admission.
   - continue to trend
   #Atrial fibrillation: While in the MICU the patient developed
   intermittent A. fib last admission. He was rate controlled with
   metoprolol and was discharge din NSR. He is already anticoagulated with
   supratherapeutic INR on warfarin.
   - hold metoprolol in setting of hypotension
   - holding coumadin given supratherapeutic INR, continue to monitor
   # Renal failure: Likely [**3-9**] AIN and ATN from medication and hypotension
   which is relatively stable from discharge. Renal has deferred HD since
   kidneys have started to recover.  Will need to continue to monitor as
   remains at risk of nephrotoxicity on tobramycin.
   -Monitor UOP and BUN/Cr
   # Anemia: HCT stable since discharge around new baseline 28. Last
   transfused [**2178-8-31**] for history of GIB, bleeding from trach site, and
   psoas bleed found on CT as well as likely component of AOCD and renal
   insufficiency. Coumadin restarted prior to discharge and heparin d/c'd.
   - continue to trend
   - maintain active type and screen, IV access.
   # H/O DVT: BLE U/S most recently did not show DVT. Restarted warfarin
   [**9-5**].
   - holding coumadin now given supratherapeutic INR, monitor coags
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-13**] 07:51 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-9-12**] 10:50 PM
   Multi Lumen - [**2178-9-12**] 10:54 PM
   Arterial Line - [**2178-9-12**] 10:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: HCP is brother [**Name (NI) **]
   [**Name (NI) 129**] status: Full code
   Disposition:ICU

2178-09-14 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Tube feedsnovasource renal + 20g beneprotein goal 45ml/hr
   - Renal does not want HD at this time.
   - Hct down to 25.7, recheck HCT this afternoon, crossmatched 2 units
   transfuse.
   - Thoracic will leave recs tomorrow re replacing trach with more secure
   tube.
   - Did not pull fem line due to elevated INR, when decreases pull fem
   line.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2178-9-14**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-14**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 81 (70 - 95) bpm
   BP: 91/49(62) {77/43(55) - 137/80(99)} mmHg
   RR: 27 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,044 mL
                                                                    282 mL
   PO:
                  TF:
                                                                    669 mL
                                                                    282 mL
   IVF:
                                                                      0 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    465 mL
   Urine:
                                                                  1,605 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -711 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: 7.25/69/98.[**Numeric Identifier 500**]/28/0
   Ve: 14.5 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General: Awakens and opens eyes to voice, tachypneic, grunting and cuff
   leak evident with breathing.
   HEENT: Trach in place with cuff fully inflated.  Sclera anicteric, MM
   slightly dry, oropharynx clear
   Neck: supple, unable to appreciate JVP, no LAD
   Lungs: Coarse vented rhonchorous BS occ exp wheezes B/L
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly.  G tube in place
   with dsg C/D/I
   Ext: Warm, well perfused, 1+ pulses, trace edema, no clubbing,
   cyanosis. Decub dsg. Right fem line with oozing.  No erythema
   Skin: Right flank sacral decub not observed but no s/s infection per
   report
   Labs / Radiology
   108 K/uL
   7.3 g/dL
   99 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.8 mEq/L
   45 mg/dL
   108 mEq/L
   144 mEq/L
   24.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2178-9-12**]  10:20 PM
                             [**2178-9-13**]  12:10 AM
                             [**2178-9-13**]  03:02 AM
                             [**2178-9-13**]  04:40 AM
                             [**2178-9-13**]  02:28 PM
                             [**2178-9-13**]  02:40 PM
                             [**2178-9-13**]  04:14 PM
                             [**2178-9-13**]  07:59 PM
                             [**2178-9-14**]  02:47 AM
                             [**2178-9-14**]  03:09 AM
   WBC
   9.3
   8.2
   Hct
   27.2
   25.7
   25.5
   24.9
   24.2
   Plt
   112
   108
   Cr
   2.5
   2.6
   TropT
   0.11
   TCO2
   33
   30
   31
   31
   32
   Glucose
   80
   99
   Other labs: PT / PTT / INR:23.2/42.8/2.2, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:[**1-28**], Alk Phos / T Bili:77/0.3, Amylase
   / Lipase:38/19, Differential-Neuts:82.4 %, Lymph:10.6 %, Mono:3.8 %,
   Eos:2.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
Micro:  Sputum GRAM STAIN (Final [**2178-9-13**]):
      [**11-29**] PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
Blood cultures: NGTD
   Imaging: Chest x-ray
   Assessment and Plan
   51 y/o male with a history of severe mixed obstructive and restrictive
   disease recently admitted with hypoxic and hypercarbic respiratory
   failure, VAP and ARF now readmitted with hypercarbic respiratory
   failure, hypotension, and elevated INR.
   # Hypercarbic Respiratory Failure: generally due to obstructive and
   restrictive lung disease and obesity hypoventilatio.  Acute
   decompensation improved significantly after repositioning of trach with
   bronchoscopy.  ABG and patient comfort markedly improved.
   - Thoracic to evaluate for new trach today.
   - continue home albuterol, ipratropium, beclomethasone
   - continue tobra, vanco for now as below.
   # Hct drop:  Hct trending down from 30 to 24 today.  Most likely source
   is known RP hematoma in setting of elevated INR.  INR currently
   improved.  No evidence of significant GI bleeding.
   - transfuse 1 U PRBC
   - trend Hct Q8hrs, goal > 25
   - maintain IV access
   - consider repeat CT if not improving
   # Hypotension: Resolved with IVF.  Off pressors
   # Resistant Pulmonary Pseudomonas VAP: On tobramycin.
   - Continue to dose QOD per tobra level.
   # Elevated INR:  On coumadin for paroxysmal AFib and DVT.  INR 7 on
   admission from 2.7 the day before likely from fluconazole/warfarin
   interaction.  Now resolved after Vitamin K.
   - resume coumadin with goal INR [**3-10**]
   # Constipation - Continue home bowel regimen
   # Funguria: Completed fluconazole x 14 days, last day [**2178-9-11**].
   - f/u repeat urine culture
   #Atrial fibrillation: While in the MICU the patient developed
   intermittent A. fib last admission. He was rate controlled with
   metoprolol and was discharge din NSR. He is already anticoagulated with
   supratherapeutic INR on warfarin.
   - hold metoprolol in setting of hypotension
   - holding coumadin given supratherapeutic INR, continue to monitor
   # Renal failure: Likely [**3-9**] AIN and ATN from medication and hypotension
   which is relatively stable from discharge. Renal has deferred HD since
   kidneys have started to recover.  Will need to continue to monitor as
   remains at risk of nephrotoxicity on tobramycin.
   -Monitor UOP and BUN/Cr
   # Nails:
   - podiatry consult
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-13**] 03:28 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-9-12**] 10:50 PM
   Multi Lumen - [**2178-9-12**] 10:54 PM
   Arterial Line - [**2178-9-12**] 10:55 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: IV H2 blocker
   Communication:  Brother is HCP
   [**Name (NI) 129**] status: Full code
   Disposition: To rehab once trach issue resolved.

2178-09-15 07:20:00 Physician Resident Progress Note
Chief Complaint: 51 y/o male with a history of severe mixed obstructive
   and restrictive disease recently admitted with hypoxic and hypercarbic
   respiratory failure, VAP and ARF now readmitted with hypercarbic
   respiratory failure, hypotension, and elevated INR.
   24 Hour Events:
   Thoracics evaluated, bronchoscope and repositioned tube, no air leak
   now
   Femoral line pulled
   1upRBC for dropping hct
 MULTI LUMEN - STOP [**2178-9-14**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2178-9-15**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 75 (66 - 102) bpm
   BP: 100/51(68) {86/43(58) - 148/93(112)} mmHg
   RR: 27 (19 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,422 mL
                                                                    776 mL
   PO:
           TF:
                                                                    961 mL
                                                                    285 mL
   IVF:
                                                                     56 mL
                                                                    100 mL
   Blood products:
   281 mL
   Total out:
                                                                  1,810 mL
                                                                    740 mL
   Urine:
                                                                  1,810 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -388 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 34 cmH2O
   SpO2: 96%
   ABG: 7.26/66/69/30/0
   Ve: 13.7 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Responsive to sound, not following simple commands
   RRR without rubs, gallops or murmurs
   Coarse breath sounds bilateral, upper airway noise
   Soft, nontender, nondistended, g-tube in place with dressing, pos bowel
   sounds
   Ext warm, edema
   Labs / Radiology
   131 K/uL
   7.8 g/dL
   108 mg/dL
   2.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   45 mg/dL
   109 mEq/L
   146 mEq/L
   25.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2178-9-13**]  07:59 PM
                             [**2178-9-14**]  02:47 AM
                             [**2178-9-14**]  03:09 AM
                             [**2178-9-14**]  01:20 PM
                             [**2178-9-14**]  02:09 PM
                             [**2178-9-14**]  04:37 PM
                             [**2178-9-14**]  09:25 PM
                             [**2178-9-15**]  04:09 AM
                             [**2178-9-15**]  04:30 AM
                             [**2178-9-15**]  06:29 AM
   WBC
   8.2
   8.6
   Hct
   24.9
   24.2
   23.5
   25.9
   Plt
   108
   131
   Cr
   2.6
   2.6
   TCO2
   32
   34
   33
   33
   33
   31
   Glucose
   99
   108
   Other labs: PT / PTT / INR:25.4/39.4/2.4, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:[**1-28**], Alk Phos / T Bili:77/0.3, Amylase
   / Lipase:38/19, Differential-Neuts:77.8 %, Lymph:13.3 %, Mono:5.2 %,
   Eos:3.4 %, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Fluid analysis / Other labs: Tobra trough 2.0
   Tobra peak 3.6
   Microbiology: Urine culture - fecal contamination
   Blood cultures - pending
   Sputum - Pseudomonas Aeruginosa moderate growth ([**9-13**])
   Assessment and Plan
   51 y/o male with a history of severe mixed obstructive and restrictive
   disease recently admitted with hypoxic and hypercarbic respiratory
   failure, VAP and ARF now readmitted with hypercarbic respiratory
   failure, hypotension, and elevated INR.
   # Hypercarbic Respiratory Failure: generally due to obstructive and
   restrictive lung disease and obesity hypoventilatio.  Acute
   decompensation improved significantly after repositioning of trach with
   bronchoscopy.  ABG and patient comfort markedly improved. Thoracic
   repositioned, no new trach.
   - continue home albuterol, ipratropium, beclomethasone
   - continue tobra.
   - Pressure support, ABG after
   .
   # Hct drop:  Hct trending down from 30 to 24 today.  Most likely source
   is known RP hematoma in setting of elevated INR.  INR currently
   improved.  No evidence of significant GI bleeding.
   - trend Hct Q8hrs, goal > 25
   - Stopped coumadin
 not tolerating anticoagulation
   - PO vit K 10mg
   - maintain IV access
   - CT of abdomen and pelvis without contrast
   .
   # Hypotension: Resolved with IVF.  Off pressors
   .
   # Resistant Pulmonary Pseudomonas VAP: On tobramycin.
   - Continue to dose QOD, increase dose to 150mg.
   - Check peak 1 hour after tobra, give for 5 more days
   - Appreciate ID recs
   .
   # Elevated INR:  On coumadin for paroxysmal AFib and DVT.  INR 7 on
   admission from 2.7 the day before likely from fluconazole/warfarin
   interaction.  Now resolved after Vitamin K.
   - d/c coumadin for active bleeding
   .
   # Constipation - Continue home bowel regimen
   .
   # Funguria: Completed fluconazole x 14 days, last day [**2178-9-11**].
   - f/u repeat urine culture
   .
   #Atrial fibrillation: While in the MICU the patient developed
   intermittent A. fib last admission. He was rate controlled with
   metoprolol and was discharge din NSR. He is already anticoagulated with
   supratherapeutic INR on warfarin.
   - Restart metoprolol if blood pressures tolerate.
   # Renal failure: Likely [**3-9**] AIN and ATN from medication and hypotension
   which is relatively stable from discharge. Renal has deferred HD since
   kidneys have started to recover.  Will need to continue to monitor as
   remains at risk of nephrotoxicity on tobramycin.
   -Monitor UOP and BUN/Cr
 No HD at this time, continue to monitor with
   increasing Tobra dose
   .
   # Nails:
   - podiatry consult
   .
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-14**] 11:03 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-9-12**] 10:50 PM
   Arterial Line - [**2178-9-12**] 10:55 PM
   Prophylaxis:
   DVT: Boots, SC heparin
   Stress ulcer:
   VAP:
   Comments: No restraints, No ICU consent
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-09-16 07:44:00 Physician Resident Progress Note
Chief Complaint: 51 y/o male with a history of severe mixed obstructive
   and restrictive disease recently admitted with hypoxic and hypercarbic
   respiratory failure, VAP and ARF now readmitted with hypercarbic
   respiratory failure, hypotension, and elevated INR.
   24 Hour Events:
   CT abd/pelvis - prelim read - Persistent right retroperitoneal
   hemorrhage involving the iliacus and
   psoas muscle, unchanged. No new areas of hemorrhage.
   Pt had tube feeds coming out from trach site, TF held, g-tube put to
   gravity.
   Trial of PS, failed, tachypneic and agitated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-15**] 08:23 AM
   Lorazepam (Ativan) - [**2178-9-16**] 05:00 AM
   Fentanyl - [**2178-9-16**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2178-9-16**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-16**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 81 (68 - 112) bpm
   BP: 117/65(82) {92/53(67) - 156/88(107)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.4 kg (admission): 140 kg
   Height: 74 Inch
             Total In:
                                                                  1,862 mL
                                                                    105 mL
   PO:
             TF:
                                                                    905 mL
   IVF:
                                                                    346 mL
                                                                    105 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  2,295 mL
                                                                    660 mL
   Urine:
                                                                  2,295 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -433 mL
                                                                   -555 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 686 (559 - 714) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   SpO2: 97%
   ABG: 7.27/73.[**Numeric Identifier **]/56/29/3
   Ve: 14.9 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Responds to sound
   Coarse breath sounds bilateral, crackles at bases
   RRR without rubs, gallops or murmurs
   Soft, nontender, nondistended abdomen, obese
   Ext warm, edematous
   Labs / Radiology
   134 K/uL
   7.0 g/dL
   97 mg/dL
   2.6 mg/dL
   29 mEq/L
   3.7 mEq/L
   47 mg/dL
   112 mEq/L
   150 mEq/L
   23.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2178-9-14**]  09:25 PM
                             [**2178-9-15**]  04:09 AM
                             [**2178-9-15**]  04:30 AM
                             [**2178-9-15**]  06:29 AM
                             [**2178-9-15**]  07:38 AM
                             [**2178-9-15**]  11:56 AM
                             [**2178-9-15**]  04:46 PM
                             [**2178-9-15**]  05:18 PM
                             [**2178-9-15**]  06:46 PM
                             [**2178-9-16**]  03:51 AM
   WBC
   8.6
   8.2
   8.9
   7.7
   Hct
   23.5
   25.9
   24.8
   25.0
   26.3
   23.6
   Plt
   131
   137
   133
   134
   Cr
   2.6
   TCO2
   33
   31
   34
   35
   Glucose
   108
   97
   Other labs: PT / PTT / INR:30.0/44.4/3.0, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:[**1-28**], Alk Phos / T Bili:77/0.3, Amylase
   / Lipase:38/19, Differential-Neuts:77.8 %, Lymph:13.3 %, Mono:5.2 %,
   Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Imaging: CT abdomen/pelvis - prelim
   Persistent right retroperitoneal hemorrhage involving the iliacus and
   psoas muscle, unchanged. No new areas of hemorrhage.
   Microbiology: Blood cx - pending
   Sputum cx - pseudomonas aeruginosa
   Urine cx - contaminated
   Assessment and Plan
   51 y/o male with a history of severe mixed obstructive and restrictive
   disease recently admitted with hypoxic and hypercarbic respiratory
   failure, VAP and ARF now readmitted with hypercarbic respiratory
   failure, hypotension, and elevated INR.
   # Hypercarbic Respiratory Failure: generally due to obstructive and
   restrictive lung disease and obesity hypoventilatio.  Acute
   decompensation improved significantly after repositioning of trach with
   bronchoscopy.  ABG and patient comfort markedly improved. Thoracic
   repositioned, no new trach.
   - continue home albuterol, ipratropium, beclomethasone
   - continue tobra 4 more days QOD dosing
   - trial pressure support, ABG after
   .
   # Hct drop:  Hct trending down from 30 to 24 today.  Most likely source
   is known RP hematoma in setting of elevated INR.  INR currently
   improved.  No evidence of significant GI bleeding.
   - No evidence of new bleed
   - trend Hct Q8hrs, transfuse for under 25
   - Stopped coumadin
 not tolerating anticoagulation
   - Given IV vitK for elevated INR
   - maintain IV access
   .
   # Hypernatremia: 6.5 L free water deficit
   - Starting D5W with K at 150ml/hour, increase as needed on repete lytes
   - Check PM lytes - give more D5W if needed
   - Watch glucose levels closely
   .
   # Tube feeds:
   - Restart slowly, check residuals
   - CXR
   .
   # Hypotension: Resolved with IVF.  Off pressors
   .
   # Resistant Pulmonary Pseudomonas VAP: On tobramycin.
   - Continue to dose QOD, increase dose to 150mg.
   - Check peak 1 hour after tobra, give for 4 more days
   - Appreciate ID recs
   .
   # Elevated INR:  On coumadin for paroxysmal AFib and DVT.  INR 7 on
   admission from 2.7 the day before likely from fluconazole/warfarin
   interaction.  Now resolved after Vitamin K.
   - d/c coumadin for active bleeding
   - Check PM coags
   .
   # Funguria: Completed fluconazole x 14 days, last day [**2178-9-11**].
   - f/u repeat urine culture
   .
   #Atrial fibrillation: While in the MICU the patient developed
   intermittent A. fib last admission. He was rate controlled with
   metoprolol and was discharge din NSR. He is already anticoagulated with
   supratherapeutic INR on warfarin.
   - Restart metoprolol if blood pressures tolerate.
   - d/c anticoag due to bleed
   .
   # Renal failure: Likely [**3-9**] AIN and ATN from medication and hypotension
   which is relatively stable from discharge. Renal has deferred HD since
   kidneys have started to recover.  Will need to continue to monitor as
   remains at risk of nephrotoxicity on tobramycin.
   - Monitor UOP and BUN/Cr
 No HD at this time, continue to monitor with
   increasing Tobra dose
   .
   # Nails:
   - podiatry consult
   .
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   ICU Care
   Nutrition:
   Comments: tube feeds, held
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-9-12**] 10:50 PM
   Arterial Line - [**2178-9-12**] 10:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-09-17 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt repeat Na was 150, increased D5W to 200ml per hour. Restarted tube
   feeds very slowly. Gave IV vit K. CXR showed no change.
   Pain meds: methadone 10mg NG TID, d/c fentanyl bolus, started on
   dilaudid 1-2mg IV q4h prn
   L knee pain, withdraws from touch. Get x-ray of L knee today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-9-16**] 05:10 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-16**] 08:00 AM
   Lorazepam (Ativan) - [**2178-9-16**] 11:05 AM
   Heparin Sodium (Prophylaxis) - [**2178-9-16**] 08:00 PM
   Fentanyl - [**2178-9-17**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2178-9-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 70 (64 - 84) bpm
   BP: 125/68(85) {88/48(61) - 180/103(131)} mmHg
   RR: 28 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.4 kg (admission): 140 kg
   Height: 74 Inch
             Total In:
                                                                  3,121 mL
                                                                    607 mL
   PO:
             TF:
                                                                    135 mL
                                                                    205 mL
   IVF:
                                                                  2,806 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                    590 mL
   Urine:
                                                                  2,540 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    581 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   SpO2: 98%
   ABG: 7.31/72/89.[**Numeric Identifier 433**]/30/1
   Ve: 14.8 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   126 K/uL
   6.8 g/dL
   89 mg/dL
   2.4 mg/dL
   30 mEq/L
   3.1 mEq/L
   44 mg/dL
   110 mEq/L
   147 mEq/L
   23.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2178-9-15**]  11:56 AM
                             [**2178-9-15**]  04:46 PM
                             [**2178-9-15**]  05:18 PM
                             [**2178-9-15**]  06:46 PM
                             [**2178-9-16**]  03:51 AM
                             [**2178-9-16**]  12:08 PM
                             [**2178-9-16**]  04:43 PM
                             [**2178-9-16**]  05:47 PM
                             [**2178-9-16**]  05:59 PM
                             [**2178-9-17**]  03:28 AM
   WBC
   8.9
   7.7
   8.3
   Hct
   25.0
   26.3
   23.6
   25.7
   25.2
   23.4
   Plt
   133
   134
   126
   Cr
   2.5
   2.4
   TCO2
   34
   35
   33
   Glucose
   97
   93
   89
   Other labs: PT / PTT / INR:19.7/40.1/1.8, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:[**1-28**], Alk Phos / T Bili:77/0.3, Amylase
   / Lipase:38/19, Differential-Neuts:77.8 %, Lymph:13.3 %, Mono:5.2 %,
   Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   51 y/o male with a history of severe mixed obstructive and restrictive
   disease recently admitted with hypoxic and hypercarbic respiratory
   failure, VAP and ARF now readmitted with hypercarbic respiratory
   failure, hypotension, and elevated INR.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   #Pain control- patient with ongoing large requirements of pain meds and
   anxiolytics. Transitioned over to standing methadone with prn dilaudid
   for long term pain control and a prn ativan for anxiety.
   Currently methadone 10mg NG TID and dilaudid 1-2mg IV q4h prn
   -continue to monitor opiate requirement.
   -may increase standing methadone dose if dilaudid required regularly
   for break through pain
   -change ativan to standing dose
 RESPIRATORY FAILURE, CHRONIC
   # Hypercarbic Respiratory Failure: generally due to obstructive and
   restrictive lung disease and obesity hypoventilation.  Acute
   decompensation improved significantly after repositioning of trach with
   bronchoscopy.  ABG and patient comfort markedly improved. Thoracic
   repositioned, no new trach.
   - continue home albuterol, ipratropium, beclomethasone
   - maintain on AC w/ ARDSnet Vt
   - continue tobra 3 more days QOD dosing
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   # Resistant Pulmonary Pseudomonas VAP: On tobramycin.
   - Continue to dose QOD, increase dose to 150mg.
   - Check peak 1 hour after tobra, give for 4 more days
   - Appreciate ID recs
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   # Hct drop:  Hct trending down from 25.2 to 23.4 today.  Most likely
   source is known RP hematoma in setting of elevated INR.  INR currently
   1.8.  No evidence of significant GI bleeding.
   - No evidence of new bleed
   - trend Hct Q12hrs, transfuse for under 25
   - maintain IV access
   -Coumadin stopped
   -SQ heparin @7500 TID for proph instead or coumadin
   - Check PM coags
 HYPERNATREMIA (HIGH SODIUM)
   # Hypernatremia: 6.5 L free water deficit
   - continue D5W with K at 200 ml/hour, increase as needed and replete
   lytes
   -q4hr FSBG
   #L knee pain.  Pain to touch of L knee this AM.  No obvious sign of
   trauma.
   -3 view xray of L knee
   -brace for transport
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   # Renal failure: Likely [**3-9**] AIN and ATN from medication and hypotension
   which is relatively stable from discharge. Renal has deferred HD since
   kidneys have started to recover.  Will need to continue to monitor as
   remains at risk of nephrotoxicity on tobramycin.
   - Monitor UOP and BUN/Cr
 No HD at this time, continue to monitor with
   increasing Tobra dose
   # Tube feeds: Stopped yesterday for ? aspiration, restarted o/n
   - at goal, cont.
 HYPOTENSION (NOT SHOCK)
   # Hypotension: Resolved with IVF.  Off pressors
   # Funguria: Completed fluconazole x 14 days, last day [**2178-9-11**].
   - [**9-12**] urine cx negative fungal cx
   #Atrial fibrillation: While in the MICU the patient developed
   intermittent A. fib last admission. He was rate controlled with
   metoprolol and was discharge din NSR.
   - Restart metoprolol if blood pressures tolerate.
   -coumadin stopped
 IMPAIRED SKIN INTEGRITY
   #Trach site, sacral decub wounds.
   -follow wound care recs
   # Nails:
   - podiatry consult
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-17**] 02:29 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-9-12**] 10:50 PM
   Arterial Line - [**2178-9-12**] 10:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: With [**Doctor First Name **] his brother and HCP
   [**Name (NI) 129**] status: Full code
   Disposition:Transfer to rehab / long term care facility

2178-09-17 14:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pain meds: methadone 10mg NG TID, d/c fentanyl bolus, started on
   dilaudid 1-2mg IV q4h prn
   Pt repeat Na was 150, increased D5W to 200ml per hour. Restarted tube
   feeds very slowly. Gave IV vit K. CXR showed no change. L knee pain,
   withdraws from touch.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-9-16**] 05:10 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2178-9-17**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2178-9-17**] 09:55 AM
   Heparin Sodium (Prophylaxis) - [**2178-9-17**] 12:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-17**] 02:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 85 (66 - 95) bpm
   BP: 132/72(93) {88/48(61) - 143/79(100)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.4 kg (admission): 140 kg
   Height: 74 Inch
             Total In:
                                                                  3,121 mL
                                                                  1,029 mL
   PO:
             TF:
                                                                    135 mL
                                                                    465 mL
   IVF:
                                                                  2,806 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                  1,730 mL
   Urine:
                                                                  2,540 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    581 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: 7.31/72/89.[**Numeric Identifier 433**]/30/1
   Ve: 16.8 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), Coarse B/L BS L>R
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Pain to palpation of medial aspect of L knee and L
   hamstring.  NOt able to perform ROM.  No obvious effusion, erythema.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Decreased
   Labs / Radiology
   142 K/uL
   7.2 g/dL
   89 mg/dL
   2.4 mg/dL
   30 mEq/L
   3.1 mEq/L
   44 mg/dL
   110 mEq/L
   147 mEq/L
   24.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2178-9-15**]  04:46 PM
                             [**2178-9-15**]  05:18 PM
                             [**2178-9-15**]  06:46 PM
                             [**2178-9-16**]  03:51 AM
                             [**2178-9-16**]  12:08 PM
                             [**2178-9-16**]  04:43 PM
                             [**2178-9-16**]  05:47 PM
                             [**2178-9-16**]  05:59 PM
                             [**2178-9-17**]  03:28 AM
                             [**2178-9-17**]  07:31 AM
   WBC
   8.9
   7.7
   8.3
   8.8
   Hct
   26.3
   23.6
   25.7
   25.2
   23.4
   24.1
   Plt
   133
   134
   126
   142
   Cr
   2.5
   2.4
   TCO2
   34
   35
   33
   Glucose
   97
   93
   89
   Other labs: PT / PTT / INR:19.7/40.1/1.8, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:[**1-28**], Alk Phos / T Bili:77/0.3, Amylase
   / Lipase:38/19, Differential-Neuts:77.8 %, Lymph:13.3 %, Mono:5.2 %,
   Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:5.1 mg/dL
   Imaging: 2 view of L-knee: small effusion, no obvious fx
   Microbiology: Bcx [**9-/2158**] pending
   Assessment and Plan
   51 y/o male with a history of severe mixed obstructive and restrictive
   disease recently admitted with hypoxic and hypercarbic respiratory
   failure, VAP and ARF now readmitted with hypercarbic respiratory
   failure, hypotension, and elevated INR.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   #patient continued to require boluses of fentanyl.  Methadone increased
   to 10mg TID and dilaudid ordered to replace fentanyl boluses.  Ativan
   as prn anxiolytic.
   -follow dilaudid  requirement, increase methadone if regularly
   requiring dilaudid
   -continue ativan anxiolytic
L KNEE PAIN
   #New left knee pain noted today.  Pain with palpation, no obvious
   temperature difference, erythema or swelling.  Possible
   fracture/ligamentous injury vs gout vs septic arthritis vs DVT.  Pain
   in the region of previous DVT.
   - LENIs to eval for DVT
   - If LENIs negative tap knee for fluid analysis
   - if gout give steroids
   - if inf start abx
   - if all studies negative, order brace for patient transport for
   comfort
 RESPIRATORY FAILURE, CHRONIC
   # Hypercarbic Respiratory Failure: generally due to obstructive and
   restrictive lung disease and obesity hypoventilatio.  Acute
   decompensation improved significantly after repositioning of trach with
   bronchoscopy.  ABG and patient comfort markedly improved. Thoracic
   repositioned, no new trach.
   - continue home albuterol, ipratropium, beclomethasone
   - continue tobra 4 more days QOD dosing
   - trial pressure support, ABG after
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   # Resistant Pulmonary Pseudomonas VAP: On tobramycin.
   - Continue to dose QOD, increase dose to 150mg.
   - Check peak 1 hour after tobra, give for 4 more days
   - Appreciate ID recs
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   # Hct drop:  Hct from 25.2 to 23.4 today.   Was on coumadin for
   paroxysmal AFib and DVT.  INR 7 on admission from 2.7 the day before
   likely from fluconazole/warfarin interaction.  Now resolved after
   Vitamin K. Most likely source is known RP hematoma in setting of
   elevated INR.  INR currently improved at 1.8.
   - trend Hct Q12hrs, transfuse for under 25
   - Stopped coumadin, started SC Heparin
   - maintain IV access
   - Check PM coags
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   # Renal failure: Likely [**3-9**] AIN and ATN from medication and hypotension
   which is relatively stable from discharge. Renal has deferred HD since
   kidneys have started to recover.  Will need to continue to monitor as
   remains at risk of nephrotoxicity on tobramycin.
   - Monitor UOP and BUN/Cr
 No HD at this time, continue to monitor with
   increasing Tobra dose
 HYPERNATREMIA (HIGH SODIUM)
   # Hypernatremia: 6.5 L free water deficit yesterday.  Received D5W and
   repleted K as needed.
   - Continue  D5W 200ml/hour, repete lytes as needed
   - Check PM lytes - give more D5W if needed
   - Watch glucose levels closely
ALTERED NUTRITION
   # Tube feeds: Restarted yseterday after TF coming out from around trach
   site.
   - Back at goals
 HYPOTENSION (NOT SHOCK)
   # Hypotension: Resolved with IVF.  Off pressors
 Fungal UTI
   # Funguria: Completed fluconazole x 14 days, last day [**2178-9-11**].
   - f/u repeat urine culture
 IMPAIRED SKIN INTEGRITY
   #Tach and sacral decub ulcerations
   -follow wound care recs
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-9-12**] 10:50 PM
   Arterial Line - [**2178-9-12**] 10:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Communication with brother [**Name (NI) **] (HCP)
   [**Name (NI) 129**] status: Full code
   Disposition:ICU

2178-09-18 08:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Official read knee x-ray: both views oblique, no AP/lateral, but joint
   effusion noted. LENI showed no DVT.
   INR 1.8, 3U FFP given to reverse INR prior to tap. Joint aspirated -
   blood tinged fluid, sent for gram stain, cx, crystal analysis.  Showed
   500 WBC. Joint instability with massive effusion noted on exam, ortho
   consulted, thought patella floating in effusion. Ortho to staff
   tomorrow, no further recs for now.
   HCT stable at 24.1.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-9-16**] 05:10 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-9-17**] 12:55 PM
   Lorazepam (Ativan) - [**2178-9-18**] 07:00 AM
   Hydromorphone (Dilaudid) - [**2178-9-18**] 07:00 AM
   Pantoprazole (Protonix) - [**2178-9-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-18**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 93 (74 - 111) bpm
   BP: 124/70(88) {105/60(76) - 177/98(126)} mmHg
   RR: 24 (13 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.4 kg (admission): 140 kg
   Height: 74 Inch
             Total In:
                                                                  3,130 mL
                                                                  1,365 mL
   PO:
             TF:
                                                                  1,218 mL
                                                                    394 mL
   IVF:
                                                                    497 mL
                                                                    526 mL
   Blood products:
                                                                    920 mL
   Total out:
                                                                  2,460 mL
                                                                  1,310 mL
   Urine:
                                                                  2,460 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   SpO2: 92%
   ABG: 7.26///29/
   Ve: 14.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   7.4 g/dL
   104 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.6 mEq/L
   44 mg/dL
   112 mEq/L
   152 mEq/L
   25.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2178-9-15**]  06:46 PM
                             [**2178-9-16**]  03:51 AM
                             [**2178-9-16**]  12:08 PM
                             [**2178-9-16**]  04:43 PM
                             [**2178-9-16**]  05:47 PM
                             [**2178-9-16**]  05:59 PM
                             [**2178-9-17**]  03:28 AM
                             [**2178-9-17**]  07:31 AM
                             [**2178-9-17**]  02:08 PM
                             [**2178-9-18**]  02:31 AM
   WBC
   7.7
   8.3
   8.8
   9.6
   9.7
   Hct
   23.6
   25.7
   25.2
   23.4
   24.1
   24.2
   25.2
   Plt
   134
   126
   142
   147
   148
   Cr
   2.5
   2.4
   2.4
   TCO2
   35
   33
   Glucose
   97
   93
   89
   104
   Other labs: PT / PTT / INR:16.5/35.1/1.5, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:[**1-28**], Alk Phos / T Bili:77/0.3, Amylase
   / Lipase:38/19, Differential-Neuts:81.9 %, Lymph:10.6 %, Mono:4.2 %,
   Eos:2.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:5.5 mg/dL
   Imaging: LENI's nl
   Microbiology: pending Joint aspirate
   Assessment and Plan
   51 y/o male with a history of severe mixed obstructive and restrictive
   disease recently admitted with hypoxic and hypercarbic respiratory
   failure, VAP and ARF now readmitted with hypercarbic respiratory
   failure, hypotension, and elevated INR.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   #patient continued to require boluses of fentanyl.  Methadone increased
   to 10mg TID and dilaudid ordered to replace fentanyl boluses.  Ativan
   as prn anxiolytic.
   -follow dilaudid  requirement, increase methadone if regularly
   requiring dilaudid
   -continue ativan anxiolytic
L KNEE PAIN
   #New left knee pain noted today.  Pain with palpation, no obvious
   temperature difference, erythema or swelling.  Possible
   fracture/ligamentous injury vs gout vs septic arthritis vs DVT.  Pain
   in the region of previous DVT.
   - LENIs to eval for DVT
   - If LENIs negative tap knee for fluid analysis
   - if gout give steroids
   - if inf start abx
   - if all studies negative, order brace for patient transport for
   comfort
 RESPIRATORY FAILURE, CHRONIC
   # Hypercarbic Respiratory Failure: generally due to obstructive and
   restrictive lung disease and obesity hypoventilatio.  Acute
   decompensation improved significantly after repositioning of trach with
   bronchoscopy.  ABG and patient comfort markedly improved. Thoracic
   repositioned, no new trach.
   - continue home albuterol, ipratropium, beclomethasone
   - continue tobra 4 more days QOD dosing
   - trial pressure support, ABG after
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   # Resistant Pulmonary Pseudomonas VAP: On tobramycin.
   - Continue to dose QOD, increase dose to 150mg.
   - Check peak 1 hour after tobra, give for 4 more days
   - Appreciate ID recs
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   # Hct drop:  Hct from 25.2 to 23.4 today.   Was on coumadin for
   paroxysmal AFib and DVT.  INR 7 on admission from 2.7 the day before
   likely from fluconazole/warfarin interaction.  Now resolved after
   Vitamin K. Most likely source is known RP hematoma in setting of
   elevated INR.  INR currently improved at 1.8.
   - trend Hct Q12hrs, transfuse for under 25
   - Stopped coumadin, started SC Heparin
   - maintain IV access
   - Check PM coags
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   # Renal failure: Likely [**3-9**] AIN and ATN from medication and hypotension
   which is relatively stable from discharge. Renal has deferred HD since
   kidneys have started to recover.  Will need to continue to monitor as
   remains at risk of nephrotoxicity on tobramycin.
   - Monitor UOP and BUN/Cr
 No HD at this time, continue to monitor with
   increasing Tobra dose
 HYPERNATREMIA (HIGH SODIUM)
   # Hypernatremia: 6.5 L free water deficit yesterday.  Received D5W and
   repleted K as needed.
   - Continue  D5W 200ml/hour, repete lytes as needed
   - Check PM lytes - give more D5W if needed
   - Watch glucose levels closely
ALTERED NUTRITION
   # Tube feeds: Restarted yseterday after TF coming out from around trach
   site.
    - Back at goals
 HYPOTENSION (NOT SHOCK)
   # Hypotension: Resolved with IVF.  Off pressors
 Fungal UTI
   # Funguria: Completed fluconazole x 14 days, last day [**2178-9-11**].
   - f/u repeat urine culture
 IMPAIRED SKIN INTEGRITY
   #Tach and sacral decub ulcerations
   -follow wound care recs
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-18**] 05:26 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-9-12**] 10:50 PM
   Arterial Line - [**2178-9-12**] 10:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Comm w/ brother [**Name (NI) **]
   [**Name (NI) 129**] status: Full code
   Disposition:Transfer to rehab / long term care facility